US03968234
Preparation of final product, 2-methoxy-4,5-methylenedioxy-cinnamylbenzene (MMCB): A mixture of 19 g. of 2-hydroxy-4,5-methylenedioxy-cinnamylbenzene, 18.9 g. of dimethyl sulfate, 30.0 g. of anhydrous potassium carbonate, and 200 ml. of acetone was refluxed for 2 hrs. The mixture was then concentrated, diluted with 1% aqueous sodium hydroxide (200 ml.), and cooled. The oil which formed was extracted with ethyl ether. The ether was removed by evaporation and the residue was distilled to give MMCB (17.5 g.), b.p. 180° C at 0.25 mm. (Found: C, 75.9; H, 5.94. Calc. for C17H16O3 : C, 76.1; H, 6.01). The 100 Hz NMR spectrum of MMCB in deuterated chloroform exhibited a doublet (2 protons) at δ 3.44 (J = 6.0 Hz), a singlet (3 protons) at δ 3.74, a singlet (2 protons) at δ 5.85, a multiplet (2 protons) at δ 6.13-6.37, a singlet (1 proton) at δ 6.51, a singlet (1 proton) at δ 6.68, and a multiplet (5 protons) at δ 7.10-7.40.

reactant | 2-hydroxy-4,5-methylenedioxy-cinnamylbenzene | OC1=C(C=CCC2=CC=CC=C2)C=C2C(=C1)OCO2 | C16H14O3
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-methoxy-4,5-methylenedioxy-cinnamylbenzene | 17.5 g | COC1=C(C=CCC2=CC=CC=C2)C=C2C(=C1)OCO2 | C17H16O3
